Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Keflex
 
Attending: ___.
 
Chief Complaint:
diplopia
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
The pt is a ___ year-old R-handed F w/ hx of hyperthyroidism ___
Grave's Dz and previous Bell's Palsy who presents with diplopia.
Hx obtained from pt at bedside.

Yesterday afternoon, pt was in USOH when while driving to
mother-in-law's house pt felt she had a change in vision (cannot
identify as an acute phenomenon), with difficulty determining
what the issue was but that could not see well in the sunlight.
Pt attributed to problem with her contacts and swapped between
each eye. Due to no improvement, she took these out and assumed
difficulty due to faulty lenses. Upon arrival home, she 
attempted
to see with her glasses and continued to have difficulty with
vision, now seeming to be a type of double vision. Describes as 
a
horizontal diplopia, binocular in nature. Reports that it was
worse when looking at objects further away. Spoke to family
friends who suggested may be ocular migraine and decided to go 
to
sleep, hoping for resolution in the morning. Pt then woke up in
middle of night and continued to have difficulty with vision
(typified as clock appearing double). This morning, when looking
in the mirror saw that her L eye was "off". She also thought 
that
her L eye was "weaker" or "wandering in" and that left visual
field was decreased compared to R. Due to these sx, she came to
ED for further evaluation.

With this visual phenomenon, denies associated blurry
vision/smearing of objects, scotomas, or photopsias. No clear
TVOs.  No associated dysarthria or focal weakness/numbness in
extremities. No dysphagia, vertiginous sx, hearing changes or
tinnitus. No orbital pain, chemosis, or lacrimation. Endorses
difficulty with closing L eye completely and therefore few tears
present. Does not clearly note as fatigable in nature. Endorses
mild headache over L frontal region but attributes to
tension-type s/p MVA in past with resulting cervical spine 
issues
and doesn't correlate with course of vision changes. A couple of
weeks ago, ran into a pole but no damage to L eye/facies. 

Pt has a hx of Grave's Dz, dx in ___ due to hyperthyroidism
after birth of son. However, has not taken Synthroid for years
with long lasting stable TSH. Last per Atrius records was 0.74.
Of note, in ___ pt developed pain behind her ear with L facial
tingling and eye tearing. Upon clinical evaluation, she was dx
with Bell's Palsy and given short course of steroid therapy w/
resolution. Lab studies including Lyme were negative and deemed
to be idiopathic. At baseline, endorses amblyopia in L eye since
childhood but denies any subsequent complications. Of note,
mother has hx of SLE c/b by blindness and other ophthalmologic
issues, but no clear neurologic manifestations. 

Neuro ROS negative except as noted above

On general review of systems, endorses recent family
stress/anxiety and insomnia.

 
Past Medical History:
Hyperthyroidism ___ Grave's Dz
Carpal tunnel
1st degree AVB                   
Anxiety
Cervical Spondylosis (bulging disc at C4-C5)
Septoplasty in ___
Bell's Palsy in ___
 
Social History:
___
Family History:
Mother-SLE
MGM-CA, DMII
MGF-DMII
PGM-Thyroid CA  
 
Physical Exam:
ADMISSION
Vitals: T: 97.7 P: 90 BP: 138/73 RR: 18 O2sat: 100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 5 to 3mm and brisk. Impaired abduction 
of
L eye. Endorses horizontal diplopia, worse on left lateral gaze
vs. right. Outside object disappears with closing of L eye.
Normal saccades. VFF to confrontation. Visual acuity ___ in L
eye, ___ (-2) in L eye. Lid lag present at rest. No clear
ptosis with upgaze, nonfatigable. Fundoscopic exam revealed no
papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
or proprioception throughout.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
Slight difficulty with FNF b/l when performed with looking to L,
intact in both UEs when looking to R. No dysmetria on HKS
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Romberg absent.

===============
DISCHARGE
- no change
 
Pertinent Results:
MRI BRAIN: 
There are multiple punctate T2/FLAIR hyperintensities within the 
white matter bilaterally, mostly within the frontal lobes, some 
of which appear periventricular (series 108, image 105 and 
series 109, image 72, 95). Although these FLAIR hyperintensities 
are nonspecific and may represent the sequela of chronic 
microvascular ischemia, alternative diagnoses such as 
demyelination should be considered in a patient with focal 
neurologic deficit. There is no evidence of hemorrhage, edema, 
masses, mass effect, midline shift or acute territory 
infarction. The ventricles and sulci are normal in caliber and 
configuration. The orbits are unremarkable bilaterally. Small 
mucous retention cyst within the right maxillary sinus. 
MRA BRAIN: The left A1 segment of the ACA is not visualized, 
consistent with anatomical vascular variation. Otherwise, the 
intracranial vertebral and internal carotid arteries and their 
major branches appear normal without evidence of stenosis, 
occlusion, or aneurysm formation. 
MRA NECK: The common, internal and external carotid arteries 
appear normal. There is no evidence of internal carotid artery 
stenosis by NASCET criteria. The origins of the great vessels, 
subclavian and vertebral arteries appear normal bilaterally. 
IMPRESSION: 
1. Multiple punctate T2/FLAIR hyperintensities, mostly within 
the frontal lobes, some of which appear periventricular, which 
are nonspecific and may represent the sequela of chronic 
microvascular ischemia, however alternative diagnoses such as 
demyelination should be considered in a patient with focal 
neurologic deficit. 
2. Unremarkable bilateral orbits and brainstem. 
3. Normal MRA head and neck. 

___ 05:20AM BLOOD WBC-7.1 RBC-3.66* Hgb-11.2 Hct-34.4 
MCV-94 MCH-30.6 MCHC-32.6 RDW-13.0 RDWSD-44.8 Plt ___
___ 10:03AM BLOOD ___ PTT-28.2 ___
___ 05:20AM BLOOD Glucose-84 UreaN-14 Creat-0.8 Na-142 
K-4.4 Cl-104 HCO3-27 AnGap-11
___ 10:03AM BLOOD ALT-6 AST-16 CK(CPK)-119 AlkPhos-50 
TotBili-0.4
___ 10:03AM BLOOD cTropnT-<0.01
___ 05:20AM BLOOD Calcium-9.7 Phos-3.8 Mg-2.1
___ 10:03AM BLOOD Albumin-4.5 Calcium-9.6 Phos-2.9 Mg-1.8
___ 02:00PM BLOOD %HbA1c-5.3 eAG-105
___ 10:03AM BLOOD TSH-1.6
___ 10:03AM BLOOD T3-82 Free T4-1.0
___ 04:05PM BLOOD ANCA-PND
___ 04:05PM BLOOD RheuFac-PND ___
___ 10:03AM BLOOD CRP-1.0
___ 10:03AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ yr F w/ hx of hypothyroidism ___ Grave's Dz
and previous Bell's Palsy who presents with new onset diplopia 
in
the setting of a left cranial nerve VI palsy.

#CN 6 Palsy
Her exam reveals very profound limited abduction of L eye with
diplopia worse on left lateral gaze and in the distance. The
differential is broad given her medical history and family
history. Cursory labs show normal TSH, fT4, T3, HbA1c, CRP, ESR. 
Tox
screen was all negative. MRI/MRA brain showed no obvious
abnormalities. CSF showed 0 RBC, 2 WBC, 55 protein, 62 glucose 
which does not fit with infectious or inflammatory etiology. 
However, given her history of Graves', FH of SLE, autoimmune is 
certainly on the differential. Sjogren's and SLE can present 
with cranial neuropathies. We will also check for anti-MOG, and 
sarcoid. Given her history of left sided rash, we will check 
VZV. Her exam does not show any obvious fatigue concerning for 
ocular myasthenia. Opening pressure was normal making 
pseudotumor cerebri unlikely. Other possibilities are 
malignancy, so we have recommended a screening mammogram 
outpatient.

# Anxiety
Continued home fluoxetine 10mg

# History of ___'
Patient was diagnosed with Graves' after her pregnancy but her
TSH has been WNL for years.

Transitional Issues:
-F/u with Neurology to discuss the rest of results, progress
-screening mammogram

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO QHS:PRN insomnia 
2. FLUoxetine 10 mg PO DAILY 
3. estradiol 0.025 mg/24 hr transdermal 1 patch twice weekly 
4. estradiol 10 mcg vaginal one tablet twice weekly 
5. proGESTerone micronized 100 mg oral DAILY 

 
Discharge Medications:
1.  estradiol 0.025 mg/24 hr transdermal 1 patch twice weekly  
2.  Estradiol 10 mcg vaginal ONE TABLET TWICE WEEKLY  
3.  FLUoxetine 10 mg PO DAILY  
4.  LORazepam 0.5 mg PO QHS:PRN insomnia  
5.  proGESTerone micronized 100 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CN VI Palsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized for your double vision, which is caused by 
something called cranial nerve 6 palsy. Your MRI/MRA brain was 
completely normal. Your thyroid, diabetes, inflammatory markers 
in your blood were all normal. Your spinal fluid is normal. We 
have sent off tests for autoimmune disorders that will come back 
in weeks, however we do not believe you have any of these 
disorders since your spinal fluid looks normal. You will 
follow-up with Dr. ___ on ___ at 2pm to see how you 
are doing. We also recommend getting a screening mammogram as 
breast cancer can sometimes have obscure presentations.

Thanks for involving us in your care.

Sincerely,

___ Neurology
 
Followup Instructions:
___